US06352993B1
6-methoxymethyl-5-methyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After o-toluidine(0.32 ml, 3.0 mmol) and triethylamine(0.63 ml, 4.5 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.96 g, 3 mmol) in dimethylformamide(5 ml), 250 mg of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | o-toluidine | 3.0 mmol, 0.32 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3 mmol, 0.96 g | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C)C | C17H20ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 250 mg, Yield: 20% | Cl.COCC1=C(C(=NC(=N1)NC1=C(C=CC=C1)C)N1C(C2=CC=CC=C2CC1)C)C | InChI=1S/C24H28N4O.ClH/c1-16-9-5-8-12-21(16)25-24-26-22(15-29-4)17(2)23(27-24)28-14-13-19-10-6-7-11-20(19)18(28)3;/h5-12,18H,13-15H2,1-4H3,(H,25,26,27);1H
